US06333323B1
1-(1-Benzenesulfonyl-5-chloroindol-3-yl)-3-(3-carboxyphenyl)-3-hydroxy-propen-1-one
In accordance with Example 99, 3-acetyl-1-benzenesulfonyl-5-chloroindole reacted with 3-methoxycarbonyl benzoylchloride, followed by hydrolysis with hydrochloric acid to give the titled compound.

reactant | 3-acetyl-1-benzenesulfonyl-5-chloroindole | C(C)(=O)C1=CN(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=CC=CC=C1 | C16H12ClNO3S
reactant | 3-methoxycarbonyl benzoylchloride | COC(=O)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
reactant | hydrochloric acid | Cl | ClH
product | 1-(1-Benzenesulfonyl-5-chloroindol-3-yl)-3-(3-carboxyphenyl)-3-hydroxy-propen-1-one | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Cl)C(C=C(O)C1=CC(=CC=C1)C(=O)O)=O | C24H16ClNO6S
